US06087371
1,6-Dimethyl-2-bromo-8β-methyl-[3-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-5-yl]-10α-methoxy-ergoline
To a solution of 2 g of 1,6-dimethyl-8β-methyl-[3-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-5-yl]-10α-methoxy-ergoline in 75 ml of dioxane were added portionwise 0.9 g of N-bromo-succinimide. After stirring at 40° C. for 2 hours, the solvent was removed and the residue was chromatographed on silica gel eluting with ethylacetate.

reactant | 1,6-dimethyl-8β-methyl-[3-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-5-yl]-10α-methoxy-ergoline | 2 g | CN1C=C2C[C@H]3N(C[C@@](C[C@@]3(C=3C=CC=C1C32)OC)(C)C3=NC(=NO3)C=3C=NC=C(C3)Br)C | C25H26BrN5O2
reactant | N-bromo-succinimide | 0.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 1,6-Dimethyl-2-bromo-8β-methyl-[3-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-5-yl]-10α-methoxy-ergoline | CN1C(=C2C[C@H]3N(C[C@@](C[C@@]3(C=3C=CC=C1C32)OC)(C)C3=NC(=NO3)C=3C=NC=C(C3)Br)C)Br | C25H25Br2N5O2
